US07259179B2
N-Phenyl-1H-benzimidazole-5-carboxamide
In a procedure analogous to example 20, reaction of benzimidazole-5-carboxylic acid (400 mg, 5.50 mmol) and aniline (510 mg, 5.50 mmol) furnished the product (370 mg, 63%).

reactant | benzimidazole-5-carboxylic acid | 5.50 mmol, 400 mg | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | aniline | 5.50 mmol, 510 mg | NC1=CC=CC=C1 | C6H7N
product | N-Phenyl-1H-benzimidazole-5-carboxamide | 370 mg, 63% | C1(=CC=CC=C1)NC(=O)C1=CC2=C(NC=N2)C=C1 | C14H11N3O
